US07589206B2
(b) 4-Bromo-7-chloro-1H-pyrrolo[2,3-c]pyridine
To a solution of 5-bromo-2-chloro-3-nitro-pyridine (7 g) in dry tetrahydrofuran (150 ml) at −70° C. under an atmosphere of nitrogen was added dropwise a solution of vinylmagnesium bromide (1.0M in tetrahydrofuran; 94.5 ml) over 1 h. The solution was stirred at −70° C. for 1 h and then quenched with saturated ammonium chloride (150 ml) and the aqueous was extracted twice with ethyl acetate. The combined organics were dried (MgSO4) and evaporated to give a deep red oil. The residue was triturated with diethyl ether (100 ml) and the solid was then filtered off, sucked dry then dried at 40° C. under vacuum to afford the title compound (1.75 g).

reactant | 5-bromo-2-chloro-3-nitro-pyridine | 7 g | BrC=1C=C(C(=NC1)Cl)[N+](=O)[O-] | C5H2BrClN2O2
reactant | vinylmagnesium bromide | 1.0M, 94.5 ml | C(=C)[Mg]Br
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
product | 4-Bromo-7-chloro-1H-pyrrolo[2,3-c]pyridine | 1.75 g | BrC1=C2C(=C(N=C1)Cl)NC=C2 | C7H4BrClN2
